US04000153
In the manner given in Example 2, 6-chloro-4-(o-fluorophenyl)-2-hydrazinoquinoline and triethyl orthoacetate are refluxed in xylene to give 7-chloro-1-methyl-5-(o-fluorophenyl)-s-triazolo[4,3-a]quinoline.

reactant | 6-chloro-4-(o-fluorophenyl)-2-hydrazinoquinoline | ClC=1C=C2C(=CC(=NC2=CC1)NN)C1=C(C=CC=C1)F | C15H11ClFN3
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-chloro-1-methyl-5-(o-fluorophenyl)-s-triazolo[4,3-a]quinoline | ClC=1C=C2C(=CC=3N(C2=CC1)C(=NN3)C)C3=C(C=CC=C3)F | C17H11ClFN3
